US04041071
Trans 3-chlorocinnamoyl chloride (4.4 g) in dry benzene (75 ml) was allowed to react with an excess of ethylamine in dry ether (75 ml) according to the procedure of Example 2. Trans 3-chloro-N-ethylcinnamamide, m.p. 87°-88° C., was obtained which had NMR, IR, and elemental analysis consistent with this structure.

reactant | Trans 3-chlorocinnamoyl chloride | 4.4 g | ClC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6Cl2O
reactant | ethylamine | C(C)N | C2H7N
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 75 ml | CCOCC | C4H10O
product | Trans 3-chloro-N-ethylcinnamamide | ClC=1C=C(/C=C/C(=O)NCC)C=CC1 | C11H12ClNO
